US09353108B2
I) Ethyl 6-(1-((2-cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate
To a suspension of Ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate (10.1 g) in THF (203 mL) was added triethylamine (6.49 mL). The mixture was stirred for 30 minutes. 2-Cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-carbaldehyde (7.73 g) was added to the mixture. The mixture was stirred for 30 minutes. Then Sodium triacetoxyborohydride (7.39 g) and acetic acid (1.33 mL) was added to the reaction mixture. The mixture was stirred at room temperature for overnight. The mixture was added to aqueous saturated sodium hydrogen carbonate solution (135 mL) and water (135 mL) at room temperature. The mixture was extracted with ethyl acetate (1.35 L). The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate) to give the title compound (13.3 g).

reactant | Ethyl 5-oxo-6-(piperidin-4-yl)-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride monohydrate | 10.1 g | O.Cl.Cl.O=C1C=2C=C(C(=NC2CCN1C1CCNCC1)CCC)C(=O)OCC
reactant | 2-Cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-carbaldehyde | 7.73 g | C1(CC1)C1=C(C=C(C(=C1)C=O)OCC)C1=C(C=C(C=C1)F)F | C18H16F2O2
reactant | Sodium triacetoxyborohydride | 7.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 135 mL | C(O)([O-])=O.[Na+]
solvent | THF | 203 mL | C1CCOC1 | C4H8O
solvent | water | 135 mL | O | H2O
solvent | acetic acid | 1.33 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 6.49 mL | C(C)N(CC)CC | C6H15N
product | Ethyl 6-(1-((2-cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 13.3 g | C1(CC1)C1=C(C=C(C(=C1)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OCC)=O)OCC)C1=C(C=C(C=C1)F)F | C37H43F2N3O4
